US07902309B2
Polymerization of 1,3-butadiene was conducted using a catalyst system comprising neodymium versatate (“NdV”), triisobutylaluminum (“TIBA”), and ethylaluminum dichloride (“EADC”) to prepare a control sample of cis-1,4-polybutadiene according to the following method. An oven-dried 800-mL glass bottle was capped with a self-sealing rubber liner and a perforated metal cap. After the bottle was thoroughly purged with a stream of dry nitrogen, the bottle was charged with 106 g of hexane and 227 g of a 1,3-butadiene/hexane blend containing 22.0 percent by weight of 1,3-butadiene to yield a 1,3-butadiene/hexane blend comprising 15 percent by weight 1,3-butadiene. The following catalyst ingredients were then charged into the bottle in the following order: (1) 3.00 ml of 0.68 M TIBA in hexane, (2) 0.90 ml of 0.0944 M NdV in cyclohexane, and (3) 0.80 ml of 0.159 M EADC in hexane. The bottle was tumbled for 50 minutes in a water bath maintained at 80° C. The polymerization was then terminated by addition of 3 ml of 12 percent by weight 2,6-di-tert-butyl-4-methylphenol solution in isopropanol. The resulting polymer cement was coagulated with 2 liters of isopropanol containing 0.5 g of 2,6-di-tert-butyl-4-methylphenol and then drum-dried. The yield of the polymer was 48.6 g. The Mooney viscosity (“ML1+4”) of the resulting polymer was determined to be 62.8 at 100° C. by using an Alpha Technologies Mooney viscometer with a large rotor, a one-minute warm-up time, and a four-minute running time. As determined by gel permeation chromatography (“GPC”), the polymer had a number average molecular weight (“Mn”) of 133,500, a weight average molecular weight (“Mw”) of 362,800, and a molecular weight distribution (“Mw/Mn”) of 2.72. The infrared spectroscopic analysis of the polymer indicated a cis-1,4-linkage content of 97.16 percent, a trans-1,4-linkage content of 2.01 percent, and a 1,2-linkage content of 0.83 percent. The properties of the polymer are summarized in Table 1.

reactant | 1,3-butadiene | C=CC=C | C4H6
reactant | neodymium | [Nd] | Nd
reactant | triisobutylaluminum | C(C(C)C)[Al](CC(C)C)CC(C)C
reactant | ethylaluminum dichloride | [Cl-].[Cl-].C(C)[Al+2]
product | 1,3-butadiene hexane | C=CC=C.CCCCCC | InChI=1S/C6H14.C4H6/c1-3-5-6-4-2;1-3-4-2/h3-6H2,1-2H3;3-4H,1-2H2
